US07371763B2
4-(4-tert-Butoxycarbamoylbenzyl)aniline:
To a solution of 4,4′-methylenedianiline (3.00 g, 15.1 mmol) in anh THF (50 mL) at room temp was added a solution of di-tert-butyl dicarbonate (3.30 g, 15.1 mmol) in anh THF (10 mL). The reaction mixture was heated at the reflux temp. for 3 h, at which time TLC indicated the presence of unreacted methylenedianiline. Additional di-tert-butyl dicarbonate (0.664 g, 3.03 mmol, 0.02 equiv) was added and the reaction stirred at the reflux temp. for 16 h. The resulting mixture was diluted with Et2O (200 mL), sequentially washed with a saturated NaHCO3 solution (100 ml), water (100 mL) and a saturated NaCl solution (50 mL), dried (MgSO4), and concentrated under reduced pressure. The resulting white solid was purified by silica gel chromatography (gradient from 33% EtOAc/67% hexane to 50% EtOAc/50% hexane) to afford the desired product as a white solid (2.09 g, 46%): TLC (50% EtOAc/50% hexane) Rf 0.45; 1H-NMR (DMSO-d6) δ 1.43 (s, 9H), 3.63 (s, 2H), 4.85 (br s, 2H), 6.44 (d, J=8.4 Hz, 2H), 6.80 (d, J=8.1 Hz, 2H), 7.00 (d, J=8.4 Hz, 2H), 7.28 (d, J=8.1 Hz, 2H), 9.18 (br s, 1H); FAB-MS m/z 298 (M+). A7. General Method for the Synthesis of Aryl Amines Via Electrophilic Nitration Followed by Reduction

reactant | 4,4′-methylenedianiline | 15.1 mmol, 3.00 g | C(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C13H14N2
reactant | di-tert-butyl dicarbonate | 15.1 mmol, 3.30 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | methylenedianiline | C(NC1=CC=CC=C1)NC1=CC=CC=C1 | C13H14N2
reactant | di-tert-butyl dicarbonate | 3.03 mmol, 0.664 g, 0.02 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 4-(4-tert-Butoxycarbamoylbenzyl)aniline | 2.09 g, 46% | C(C)(C)(C)ONC(=O)C1=CC=C(CC2=CC=C(N)C=C2)C=C1 | C18H22N2O2
